US04686217
Diethyl 2-(aminothioxomethyl)-1,4-dihydro-6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate
Hydrogen sulphide was bubbled through a solution of diethyl 2-cyano-1,4-dihydro-6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate (1 g, 2.6 mmoles) in triethylamine (0.36 ml, 2.6 mmoles) and pyridine (20 ml) at room temperature for 2 hours. The solution was degassed with nitrogen and poured into water (300 ml). After stirring for 2 hours, the precipitate was filtered off, dissolved in methylene chloride and dried (Na2SO4). The solvent was removed in vacuo and the residue triturated with CCl4 and filtered to give the title compound (0.5 g). M+ 419; (CDCl3) δ 9.3 (s,NH2), 5.2 (s,H).

reactant | Hydrogen sulphide | S | H2S
reactant | diethyl 2-cyano-1,4-dihydro-6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate | 2.6 mmoles, 1 g | C(#N)C=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C | C19H19N3O6
reactant | triethylamine | 2.6 mmoles, 0.36 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Diethyl 2-(aminothioxomethyl)-1,4-dihydro-6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate | 0.5 g | NC(C=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)=S | C19H21N3O6S
